US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(2-fluoro-5-((3-(methylamino)pyrrolidin-1-yl)methyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine
Dilute tert-butyl 1-((4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yl)methyl)pyrrolidin-3-yl(methyl)carbamate (118 mg, 0.18 mmol) in DCM (3 mL) and treat with 4 M hydrochloric acid in dioxane (0.45 mL, 1.8 mmol). Heat the mixture at 35° C. for 2 h. Remove the organic solvent to give the crude deprotected product. Dilute in DCM (3 mL) and methanol. Pour the mixture onto a strong cation exchange (SCX) (10 g) column. Elute the desired product with 2 N methanolic ammonia (40 mL) and concentrate. Dry the concentrated material from 1:1 acetonitrile/water by lyophilizing to afford the title compound (88 mg, 46%). MS (ES) m/z 548 [M+1]+.

reactant | tert-butyl 1-((4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yl)methyl)pyrrolidin-3-yl(methyl)carbamate | 0.18 mmol, 118 mg | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=C(C=NC(=C2)F)CN2CC(CC2)N(C(OC(C)(C)C)=O)C)F | C32H35F2N9O2S
reactant | hydrochloric acid | 4 M | Cl | ClH
reactant | dioxane | 1.8 mmol, 0.45 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(2-fluoro-5-((3-(methylamino)pyrrolidin-1-yl)methyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 88 mg, 46% | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2CN2CC(CC2)NC)F)F | C27H27F2N9S
